US06020329
(c) Pivaloyloxymethyl (6R,7R)-7-[2-(2-aminothiazol-4-yl)-2-(Z)-methoxyiminoacetamido]-3-[(S) -tetrahydrofuran-2-yl]ceph-3-em-4-carboxylate
A solution of (Z)-2-(2-aminothiazol-4-yl)-2-methoxyiminoacetic acid (0.108g, 0.537mmol) in DMF (2ml) was cooled to -50° C. N,N-Diisopropylethylamine (0.103ml, 0.59mmol) followed by methanesulphonyl chloride (0.046ml, 0.59mmol) were added and the mixture was stirred at -50° C. for 30 min. A further quantity of N,N-diisopropylethylamine (0.086ml, 0.493mmol) was added and this mixture was added to a pre-cooled solution of pivaloyloxymethyl (6R,7R)-7-amino-3-[(S)-tetrahydrofuran-2-yl]ceph-3-em-4-carboxylate (0.185g, 0.482mmol) in DMF (2ml) at 0° C. The resulting mixture was stirred at 0° C. for 40 min., then it was partitioned between ethyl acetate and water. The organic phase was washed with water, brine, dried (MgSO4) and evaporated. The residue was purified by flash chromatography, then triturated with ether to give the title compound (0.193g, 71%) as a white solid. The spectral data was identical with that obtained for Example 8.

reactant | (Z)-2-(2-aminothiazol-4-yl)-2-methoxyiminoacetic acid | 0.537mmol, 0.108g | NC=1SC=C(N1)/C(/C(=O)O)=N/OC | C6H7N3O3S
reactant | N,N-Diisopropylethylamine | 0.59mmol, 0.103ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | methanesulphonyl chloride | 0.59mmol, 0.046ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | N,N-diisopropylethylamine | 0.493mmol, 0.086ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | pivaloyloxymethyl (6R,7R)-7-amino-3-[(S)-tetrahydrofuran-2-yl]ceph-3-em-4-carboxylate | 0.482mmol, 0.185g | N[C@H]1[C@@H]2N(C(=C(CS2)[C@H]2OCCC2)C(=O)OCOC(C(C)(C)C)=O)C1=O | C17H24N2O6S
solvent | DMF | 2ml | CN(C)C=O | C3H7NO
solvent | DMF | 2ml | CN(C)C=O | C3H7NO
product | Pivaloyloxymethyl (6R,7R)-7-[2-(2-aminothiazol-4-yl)-2-(Z)-methoxyiminoacetamido]-3-[(S) -tetrahydrofuran-2-yl]ceph-3-em-4-carboxylate | 0.193g, 71% | NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)[C@H]2OCCC2)C(=O)OCOC(C(C)(C)C)=O)C1=O)=N/OC | C23H29N5O8S2
